US08748012B2
A solution of 1-(3-bromo-9H-carbazol-9-yl)ethanone (2.000 g, 6.94 mmol), 9-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-9H-carbazole (2.56 g, 6.94 mmol), Pd2(dba)3 (0.064 g, 0.069 mmol), SPhos (0.057 g, 0.139 mmol) and potassium phosphate tribasic hydrate (4.80 g, 20.82 mmol) in toluene (100 mL) and water (10 mL) was stirred at 70° C. under nitrogen overnight. After cooling to room temperature, the organic phase was isolated. Upon evaporation of the solvent, the residue was purified by column chromatography on silica gel with hexane:DCM (1:4, v/v) as eluent to yield 1-(3-(3-(9H-carbazol-9-yl)phenyl)-9H-carbazol-9-yl)ethanone (2.9 g, 94%) as a white solid.

reactant | 1-(3-bromo-9H-carbazol-9-yl)ethanone | 6.94 mmol, 2.000 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C(C)=O | C14H10BrNO
reactant | 9-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-9H-carbazole | 6.94 mmol, 2.56 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12)C | C24H24BNO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
catalyst | Pd2(dba)3 | 0.069 mmol, 0.064 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | SPhos | 0.139 mmol, 0.057 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
product | 1-(3-(3-(9H-carbazol-9-yl)phenyl)-9H-carbazol-9-yl)ethanone | 2.9 g, 94% | C1=CC=CC=2C3=CC=CC=C3N(C12)C=1C=C(C=CC1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C(C)=O | C32H22N2O
